US04801605
A mixture of 11.58 g of 6-methoxy-3,4-dihydro-2H-[1]-benzopyran-3-one, 26 g of dipropylamine, 0.3 ml of trifluoroacetic acid and 160 ml of toluene is refluxed in a Dean-Stark apparatus for 2 hours. The solution concentrated in vacuo and the residue is added to a solution of 8 g of sodium cyanoborohydride in 160 ml of ethanol and 40 ml of acetic acid. After 15 minutes at room temperature most of the solvent is removed in vacuo. The residue is dissolved in 6N hydrochloric acid and washed with ether. The aqueous layer is made basic and the product is extracted with ether. The aqueous layer is made basic and the product is extracted with ether. The ether layer is dried over magnesium sulfate and the solvent is removed in vacuo, to afford 6-methoxy-3,4-dihydro-N,N-di-propyl-2H-[1]-benzopyran-3-amine. The fumaric acid salt melts at 107°-113°.

reactant | 6-methoxy-3,4-dihydro-2H-[1]-benzopyran-3-one | 11.58 g | COC=1C=CC2=C(CC(CO2)=O)C1 | C10H10O3
reactant | dipropylamine | 26 g | C(CC)NCCC | C6H15N
reactant | trifluoroacetic acid | 0.3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 6-methoxy-3,4-dihydro-N,N-di-propyl-2H-[1]-benzopyran-3-amine | COC=1C=CC2=C(CC(CO2)N(CCC)CCC)C1 | C16H25NO2
